US04755515
Preparation of 1-(2-hydroxyethyl)-4-(3-hydroxypropy)piperazine [I]:
1-(2-hydroxyethyl)-piperazine, 26 grams, freshly distilled allyl alcohol, 36 g and sodium hydroxide, 8 g are heated to 118°-120° C. for 36 hours. The viscous reaction mixture is taken up into 250 ml water, and solid potassium carbonate is added to saturate the warmed solution. A yellow oil, the product, rises to the top. It is extracted with tetrahydrofuran, the solvent evaporated, the residue dissolved in ethanol, the solution filtered, and the ethanol evaporated under vacuum to a thick oil, which solidifies on standing to give the isolated product, [I], above.

reactant | 1-(2-hydroxyethyl)-piperazine | OCCN1CCNCC1 | C6H14N2O
reactant | allyl alcohol | C(C=C)O | C3H6O
reactant | sodium hydroxide | [OH-].[Na+]
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | water | 250 ml | O | H2O
product | 1-(2-hydroxyethyl)-4-(3-hydroxypropy)piperazine | OCCN1CCN(CC1)CCCO | C9H20N2O2
